US05859007
N-Isopropyl-N-(4-methoxy-phenyl)-2-[3-(1-methyl-1H-indazol-3-ylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]acetamide
To a stirring solution of 330 mg (0.73 mmol) of 2-(2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl) acetamide, prepared as in Intermediate 4, in 10 mL DMF at 0° C. is added dropwise over 5 min 1.75 mL (0.87 mmol, 1.1 equiv) of a 0.5M solution of KN(TMS)2 in toluene. The resulting solution is stirred 10 min, then a solution of 180 mg (1.18 mmol, 1.1 equiv) of 1-methyl-3-bromomethyl-1H-indazole in 3 mL DMF is added. The resulting solution is stirred 3 h at RT and then quenched with 5 mL of H2O. The reaction mixture is poured into 50 mL of EtOAc and extracted with H2O (2×50 mL). The organic layer is separated, dried (MgSO4), and the solvents removed in vacuo. Purification by silica gel flash column chromatography using hexane/EtOAc 2/1 as eluent followed by further purification via silica gel MPLC using a Si60 column and hexane/EtOAc 1/1 as eluent followed by lyophilization in acetonitrile/H2O afforded 100 mg of the title compound as a white amorphous solid: 1H NMR (CDCl3, 300 MHz) δ7.74 (d, 1H, J=8.3), 7.25-6.76 (m, 16H), 4.85 (m, 1H), 4.11 (s, br, 2H), 3.97 (dd, 1H, J=5.6, 7.8), 3.77 (s, 3H), 3.70 (s, 3H), 3.63 (dd, 1H, J=7.8, 15.9), 3.48 (dd, 1H, J=5.6, 15.9), 0.92 (d, 6H, J=6.8); low resolution MS (FAB)m/e 602 (MH+), 437. Anal. (C36H35N5O4) Calcd. C, 71.86; H, 5.86; N, 11.64; Found C, 71.69; H, 5.91; N, 11.56.

reactant | 2-(2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl) acetamide | 0.73 mmol, 330 mg | O=C1CC(N(C2=C(N1CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C2=CC=CC=C2)=O | C27H27N3O4
reactant | 1-methyl-3-bromomethyl-1H-indazole | 1.18 mmol, 180 mg, 1.1 equiv | CN1N=C(C2=CC=CC=C12)CBr | C9H9BrN2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | N-Isopropyl-N-(4-methoxy-phenyl)-2-[3-(1-methyl-1H-indazol-3-ylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]acetamide | 100 mg | C(C)(C)N(C(CN1C2=C(N(C(C(C1=O)CC1=NN(C3=CC=CC=C13)C)=O)C1=CC=CC=C1)C=CC=C2)=O)C2=CC=C(C=C2)OC | C36H35N5O4
